Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
Cl[S:1](=[O:2])(=[O:3])[c:4]1[cH:5][cH:6][c:7]([Cl:8])[s:9]1.[NH2:10][c:11]1[cH:12][cH:13][c:14]([F:15])[c:16]([NH:17][c:18]2[n:19][cH:20][cH:21][cH:22][c:23]2-[c:24]2[n:25][cH:26][n:27][c:28]3[c:29]2[n:30][cH:31][n:32]3[CH:33]2[CH2:34][CH2:35][CH2:36][CH2:37][O:38]2)[c:39]1[F:40]>>[S:1](=[O:2])(=[O:3])([c:4]1[cH:5][cH:6][c:7]([Cl:8])[s:9]1)[NH:10][c:11]1[cH:12][cH:13][c:14]([F:15])[c:16]([NH:17][c:18]2[n:19][cH:20][cH:21][cH:22][c:23]2-[c:24]2[n:25][cH:26][n:27][c:28]3[c:29]2[n:30][cH:31][n:32]3[CH:33]2[CH2:34][CH2:35][CH2:36][CH2:37][O:38]2)[c:39]1[F:40],[NH2:10][c:11]1[cH:12][cH:13][c:14]([F:15])[c:16]([NH:17][c:18]2[n:19][cH:20][cH:21][cH:22][c:23]2-[c:24]2[n:25][cH:26][n:27][c:28]3[c:29]2[n:30][cH:31][n:32]3[CH:33]2[CH2:34][CH2:35][CH2:36][CH2:37][O:38]2)[c:39]1[F:40].[Cl:101][S:1](=[O:2])(=[O:3])[c:4]1[cH:5][cH:6][c:7]([Cl:8])[s:9]1>>[S:1](=[O:2])(=[O:3])([c:4]1[cH:5][cH:6][c:7]([Cl:8])[s:9]1)[NH:10][c:11]1[cH:12][cH:13][c:14]([F:15])[c:16]([NH:17][c:18]2[n:19][cH:20][cH:21][cH:22][c:23]2-[c:24]2[n:25][cH:26][n:27][c:28]3[c:29]2[n:30][cH:31][n:32]3[CH:33]2[CH2:34][CH2:35][CH2:36][CH2:37][O:38]2)[c:39]1[F:40],nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(10, 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
I[CH2:1][c:2]1[n:3][c:4](-[c:5]2[cH:6][cH:7][c:8]([F:9])[cH:10][cH:11]2)[o:12][cH:13]1.[OH:14][CH2:15][C:16]1([CH2:17][OH:18])[CH2:19][O:20][CH2:21][O:22][CH2:23]1>>[CH2:1]([c:2]1[n:3][c:4](-[c:5]2[cH:6][cH:7][c:8]([F:9])[cH:10][cH:11]2)[o:12][cH:13]1)[O:14][CH2:15][C:16]1([CH2:17][OH:18])[CH2:19][O:20][CH2:21][O:22][CH2:23]1,[I:101][CH2:1][c:2]1[n:3][c:4](-[c:5]2[cH:6][cH:7][c:8]([F:9])[cH:10][cH:11]2)[o:12][cH:13]1.[OH:14][CH2:15][C:16]1([CH2:17][OH:18])[CH2:19][O:20][CH2:21][O:22][CH2:23]1.[H-:301].[Na+]>>[CH2:1]([c:2]1[n:3][c:4](-[c:5]2[cH:6][cH:7][c:8]([F:9])[cH:10][cH:11]2)[o:12][cH:13]1)[O:14][CH2:15][C:16]1([CH2:17][OH:18])[CH2:19][O:20][CH2:21][O:22][CH2:23]1,SN2_alcohol(thiol),"[(301, 14.1), ([14.1, 14], 14), (14, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CO[C:1](=[O:2])[c:3]1[s:4][c:5]2[n:6][cH:7][n:8][c:9]([NH:10][c:11]3[cH:12][cH:13][c:14]([F:15])[cH:16][c:17]3[O:18][CH:19]3[CH2:20][CH2:21][O:22][CH2:23][CH2:24]3)[c:25]2[c:26]1[CH3:27].[CH3:28][O:29][CH2:30][CH2:31][NH2:32]>>[C:1](=[O:2])([c:3]1[s:4][c:5]2[n:6][cH:7][n:8][c:9]([NH:10][c:11]3[cH:12][cH:13][c:14]([F:15])[cH:16][c:17]3[O:18][CH:19]3[CH2:20][CH2:21][O:22][CH2:23][CH2:24]3)[c:25]2[c:26]1[CH3:27])[NH:32][CH2:31][CH2:30][O:29][CH3:28],C[O:101][C:1](=[O:2])[c:3]1[s:4][c:5]2[n:6][cH:7][n:8][c:9]([NH:10][c:11]3[cH:12][cH:13][c:14]([F:15])[cH:16][c:17]3[O:18][CH:19]3[CH2:20][CH2:21][O:22][CH2:23][CH2:24]3)[c:25]2[c:26]1[CH3:27].[CH3:28][O:29][CH2:30][CH2:31][NH2:32]>>[C:1](=[O:2])([c:3]1[s:4][c:5]2[n:6][cH:7][n:8][c:9]([NH:10][c:11]3[cH:12][cH:13][c:14]([F:15])[cH:16][c:17]3[O:18][CH:19]3[CH2:20][CH2:21][O:22][CH2:23][CH2:24]3)[c:25]2[c:26]1[CH3:27])[NH:32][CH2:31][CH2:30][O:29][CH3:28],nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(32, 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[C:1]([O:2][CH2:3][CH3:4])=[O:5].[CH3:6][C:7]([CH3:8])([CH3:9])[CH:10]1[CH2:11][CH2:12][CH:13]([c:14]2[cH:15][cH:16][cH:17][cH:18][c:19]2[N:20]2[CH2:25][CH2:24][NH:23][CH2:22][CH2:21]2)[CH2:26][CH2:27]1>>[C:1]([O:2][CH2:3][CH3:4])(=[O:5])[N:23]1[CH2:22][CH2:21][N:20]([c:19]2[c:14]([CH:13]3[CH2:12][CH2:11][CH:10]([C:7]([CH3:6])([CH3:8])[CH3:9])[CH2:27][CH2:26]3)[cH:15][cH:16][cH:17][cH:18]2)[CH2:25][CH2:24]1,[CH3:6][C:7]([CH3:8])([CH3:9])[CH:10]1[CH2:11][CH2:12][CH:13]([c:14]2[cH:15][cH:16][cH:17][cH:18][c:19]2[N:20]2[CH2:21][CH2:22][NH:23][CH2:24][CH2:25]2)[CH2:26][CH2:27]1.[Cl:101][C:1]([O:2][CH2:3][CH3:4])=[O:5]>>[C:1]([O:2][CH2:3][CH3:4])(=[O:5])[N:23]1[CH2:22][CH2:21][N:20]([c:19]2[c:14]([CH:13]3[CH2:12][CH2:11][CH:10]([C:7]([CH3:6])([CH3:8])[CH3:9])[CH2:27][CH2:26]3)[cH:15][cH:16][cH:17][cH:18]2)[CH2:25][CH2:24]1,nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(23, 1), ([1, 5], 5), (5, [5, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
